* C:\Users\mnrpr\Documents\LTspiceXVII\BGR_currentmirror.asc
M1 N001 N003 N004 N002 PMOS l=500n w=12u
M2 N001 N003 N003 N001 PMOS l=500n w=12u
M3 N001 N003 vref N001 PMOS l=500n w=12u
M4 N004 N004 N006 0 NMOS l=1u w=1u
M5 N003 N004 N005 0 NMOS l=1u w=1u
Q1 0 0 N006 0 2N5087
Q5 0 0 N008 0 2N5087
R1 vref N008 15k
R2 N005 N007 1k
V1 N001 0 3.3
Q2 0 0 N007 0 BCW68F
.model 2N5087 PNP
.model BCW68F PNP
.include standard.bjt
.model NMOS NMOS
.model PMOS PMOS
.include standard.mos
.dc temp -40 140 10
.control
run
plot v(vref)
.backanno
.endc
.end
